US08202881B2
To a mixture of 4-amino-N,N-dicyclopropyl-6-ethyl-1-methyl-1,6-dihydroimidazo[4,5-d]pyrrolo[2,3-b]pyridine-7-carboxamide (194.5 mg, 0.575 mmol) in dichloromethane (2874 μL) in a round bottom flask under nitrogen was added 1,1′-thiocarbonyldi-2(1H)-pyridone (133 mg, 0.575 mmol). The reaction mixture was stirred at room temperature for 16 h. The reaction mixture was concentrated under reduced pressure. N,N-Dicyclopropyl-6-ethyl-4-isothiocyanato-1-methyl-1,6-dihydroimidazo[4,5-d]pyrrolo[2,3-b]pyridine-7-carboxamide was isolated as a yellow sticky solid. Material was used as is in subsequent reactions.

reactant | 4-amino-N,N-dicyclopropyl-6-ethyl-1-methyl-1,6-dihydroimidazo[4,5-d]pyrrolo[2,3-b]pyridine-7-carboxamide | 0.575 mmol, 194.5 mg | NC1=C2C(=C3C(=N1)N(C(=C3)C(=O)N(C3CC3)C3CC3)CC)N(C=N2)C | C18H22N6O
reactant | 1,1′-thiocarbonyldi-2(1H)-pyridone | 0.575 mmol, 133 mg | C(=S)(N1C(C=CC=C1)=O)N1C(C=CC=C1)=O | C11H8N2O2S
solvent | dichloromethane | 2874 μL | ClCCl | CH2Cl2
product | N,N-Dicyclopropyl-6-ethyl-4-isothiocyanato-1-methyl-1,6-dihydroimidazo[4,5-d]pyrrolo[2,3-b]pyridine-7-carboxamide | C1(CC1)N(C(=O)C1=CC=2C(=NC(=C3C2N(C=N3)C)N=C=S)N1CC)C1CC1 | C19H20N6OS
